US07989454B2
To a solution of 4-[3-[6-(tert-butyl-dimethyl-silanyloxy)-hex-1-enyl]-2-((E)-2-ethoxycarbonyl-vinyl)-phenoxy]-butyric acid ethyl ester (0.977 mmol, 507 mg) in ethyl acetate (10 mL) was added 10% palladium on carbon (350 mg) at room temperature. The resulting black mixture was stirred in the presence of atmospheric hydrogen gas in a balloon for 36 h at room temperature. Then, the catalyst was removed by filtration using a filter paper and the residue was washed with hot ethyl acetate (˜60 mL). The filtrate was concentrated in vacuo and the resulting residue was dried under high vacuum to obtain 4-[3-[6-(tert-butyl-dimethyl-silanyloxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester (438 mg, 86%) as a colorless oil: ES(+)-HRMS m/e calculated for C29H50O6Si (M+Na)+ 545.3269, found 545.3267.

reactant | 4-[3-[6-(tert-butyl-dimethyl-silanyloxy)-hex-1-enyl]-2-((E)-2-ethoxycarbonyl-vinyl)-phenoxy]-butyric acid ethyl ester | 0.977 mmol, 507 mg | C(C)OC(CCCOC1=C(C(=CC=C1)C=CCCCCO[Si](C)(C)C(C)(C)C)\C=C\C(=O)OCC)=O | C29H46O6Si
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 350 mg | [Pd] | Pd
product | 4-[3-[6-(tert-butyl-dimethyl-silanyloxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester | 438 mg, 86% | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCO[Si](C)(C)C(C)(C)C)CCC(=O)OCC)=O | C29H50O6Si
